US07064123B1
A mixture of 2-iodoethylphenyl sulfide (19.81 g, 75 mmol), diethyl malonate (4.80 g, 30 mmol), potassium carbonate (10.35 g, 75 mmol) and DMF (40 mL) was heated at 52° C. for 18 hours. More potassium carbonate (10 g) was added and the reaction was continued at 52° C. for another 8 hours. The reaction mixture was cooled, diluted with ice water and the product extracted with ethyl acetate. The extracts were washed with saturated aqueous sodium chloride and then dried over magnesium sulfate. The solvent was removed by rotary evaporation at reduced pressure and the residue was chromatographed on silica gel eluting with ethyl acetate/hexane to give 2,2-bis-(2-phenylsulfanyl-ethyl)-malonic acid diethyl ester (5.648 g).

reactant | 2-iodoethylphenyl sulfide | 75 mmol, 19.81 g | ICCSC1=CC=CC=C1 | C8H9IS
reactant | diethyl malonate | 30 mmol, 4.80 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium carbonate | 75 mmol, 10.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2,2-bis-(2-phenylsulfanyl-ethyl)-malonic acid diethyl ester | 5.648 g | C(C)OC(C(C(=O)OCC)(CCSC1=CC=CC=C1)CCSC1=CC=CC=C1)=O | C23H28O4S2
